US04372966
A solution of 136 g of gamma-nitropimelic acid dimethyl ester in 500 ml of methanol is hydrogenated at approximately 3780 psi using 15 g of Raney Nickel as catalyst. The resulting slurry is filtered to remove the catalyst and the filtrate is concentrated at reduced pressure to yield crude 5-oxo-2-pyrrolidinepropanoic acid methyl ester. The 5-oxo-2-pyrrolidinepropanoic acid methyl ester is dissolved in 100 ml of methanol and 100 ml of water and is treated with 94 g of 50% sodium hydroxide solution. The reaction mixture is stirred and is heated to 98° C. with distillation of methanol. The solution is cooled, neutralized with 151 ml of concentrated hydrochloric acid and concentrated at reduced pressure. The residue containing 5-oxo-2-pyrrolidinepropanoic acid is heated at 98°-100° C. for 24 hours with 200 ml of acetic anhydride. The sodium chloride is removed by filtration after the acetic anhydride reaction. The filtrate is then concentrated at reduced pressure and 200 ml of toluene is added and concentration is repeated. The dihydro-1H-pyrrolizine-3,5-(2H,6H)-dione crystallizes and is isolated by filtration. The product is best purified by sublimation at 100° C. and 0.1 mm Hg or by recrystallization from ethanol to give melting point of 179°-182° C.

reactant | gamma-nitropimelic acid dimethyl ester | 136 g | COC(CCC(CCC(=O)OC)[N+](=O)[O-])=O | C9H15NO6
solvent | methanol | 500 ml | CO | CH4O
catalyst | Raney Nickel | 15 g | [Ni] | Ni
product | 5-oxo-2-pyrrolidinepropanoic acid methyl ester | COC(CCC1NC(CC1)=O)=O | C8H13NO3
